US04472310
A solution of 23.3 g of 3β-acetoxy-17,17-ethylenedioxy-15β,16β-methylene-5-androsten-7β-ol in 350 ml of toluene was combined dropwise, after adding vanadium(IV) oxide acetylacetonate, within 35 minutes with 23.3 ml of 80% tert.-butyl hydroperoxide, dissolved in 115 ml of toluene. The reaction solution was maintained at 80° C. for another 30 minutes, then cooled, diluted with diethyl ether, washed with sodium bisulfite solution, sodium bicarbonate solution, and water, and dried and evaporated, thus obtaining 24.5 g of 3β-acetoxy-5,6β-epoxy-17,17-ethylenedioxy-15β,16β-methylene-5β-androstan-7β-ol, mp 162°-163° C. (diisopropyl ether).

reactant | 3β-acetoxy-17,17-ethylenedioxy-15β,16β-methylene-5-androsten-7β-ol | 23.3 g | C(C)(=O)O[C@@H]1CC2=C[C@@H]([C@H]3[C@@H]4[C@H]5[C@@H](C6([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)OCCO6)C5)O | C24H34O5
reactant | tert.-butyl hydroperoxide | 23.3 ml | C(C)(C)(C)OO | C4H10O2
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 115 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3β-acetoxy-5,6β-epoxy-17,17-ethylenedioxy-15β,16β-methylene-5β-androstan-7β-ol | 24.5 g | C(C)(=O)O[C@@H]1C[C@@]23[C@@H]([C@@H]([C@H]4[C@@H]5[C@H]6[C@@H](C7([C@@]5(C)CC[C@@H]4[C@]2(CC1)C)OCCO7)C6)O)O3 | C24H34O6
